US07893223B2
11-Nitroundecanoic acid tert-butyl ester
In a 100 ml two-neck round bottom flask 11-bromoundecanoic acid t-butyl ester (6.10 g, 19.0 mmol) was dropped into a stirred solution of NaNO2 (2.60 g, 38.0 mmol) and phloroglucinol (3.10 g, 19.0 mmol) in DMF (10 ml). The reaction mixture was warmed at 50° C. and stirred for 24 h, then poured into a mixture of 40 mL of ice/water and 40 mL of PET. After separation, the aqueous phase was further extracted with PET (3×30 mL), dried (Na2SO4) and concentrated in vacuo. The crude product was purified by silica-gel column chromatography (PET/diethyl ether 95/5) obtaining a light yellow solid (2.29 g, 42%). M.p. 39-42° C. ESI-MS: 288 (MH+); (Calc. for C15H29NO4: 287 u.m.a.).

reactant | 11-bromoundecanoic acid t-butyl ester | 19.0 mmol, 6.10 g | C(C)(C)(C)OC(CCCCCCCCCCBr)=O | C15H29BrO2
reactant | NaNO2 | 38.0 mmol, 2.60 g | N(=O)[O-].[Na+]
reactant | phloroglucinol | 19.0 mmol, 3.10 g | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 11-Nitroundecanoic acid tert-butyl ester | 2.29 g, 42% | C(C)(C)(C)OC(CCCCCCCCCC[N+](=O)[O-])=O | C15H29NO4
